* DAY5_MANIFEST_SHA256=89f886ce2a150b84945a5378f29c2d4ee3faa5ef832876aeb122deb05e01391e
.lib "/foss/pdks/ciel/sky130/versions/026824c7969ce6f4fc9678e6ca04b0a06a596c4b/sky130A/libs.tech/ngspice/sky130.lib.spice" tt
.temp 27
.include "experiments/day5/generated/dut_baseline.spice"

VSSSUP VSS 0 0
VDD VDD VSS 1.8
IREF VBP VSS 1e-05
VINP VINP VSS PULSE(0.8 1.2 1u 20n 20n 2u 5u)
RLOAD VOUT VSS 100000
CLOAD VOUT VSS 5e-12
XOTA VDD VSS VINP VOUT VOUT VBP OTA
.control
set noaskquit
set wr_singlescale
set wr_vecnames
tran 0.5n 5u
wrdata experiments/day5/raw/baseline_transient.tsv v(VINP) v(VOUT)
quit
.endc
.end
